*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-23 06:34:34
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_1 21.4969a
Cext_2 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_10|CTX_L8_12 120.197a
Cext_3 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_2|CTX_L30_8|CTX_L8_4 385.16a
Cext_4 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6
+ 811.777a
Cext_5 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_4|CTX_L8_7 405.686a
Cext_6 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_5 0.595398a
Cext_7 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_6|CTX_L30_10|CTX_L8_8 396.486a
Cext_8 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_7|CTX_L8_10|CTX_L8_9 124.563a
Cext_9 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L10_8|CTX_L8_11 120.45a
Cext_10 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L30_6 153.322a
Cext_11 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_13 3.55576a
Cext_12 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_14 395.842a
Cext_13 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_15 395.842a
Cext_14 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_16 395.842a
Cext_15 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_17 52.5916a
Cext_16 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_18 120.197a
Cext_17 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_19 52.5916a
Cext_18 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_2 421.293a
Cext_19 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_20 52.5916a
Cext_20 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_21 120.197a
Cext_21 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_22 52.5916a
Cext_22 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_23 120.197a
Cext_23 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_24 52.5916a
Cext_24 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_25 52.5916a
Cext_25 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_26 31.9402a
Cext_26 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_27 3.55576a
Cext_27 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_28 139.967a
Cext_28 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_29 101.627a
Cext_29 CTX_L10_0|CTX_L30_7|CTX_L8_3 CTX_L8_30 120.197a
Cext_30 CTX_L10_0|CTX_L30_7|CTX_L8_3 VSUBS 5.03519f
Cext_31 CTX_L10_1 CTX_L10_10|CTX_L8_12 18.4164a
Cext_32 CTX_L10_1 CTX_L10_2|CTX_L30_8|CTX_L8_4 313.995a
Cext_33 CTX_L10_1 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 506.499a
Cext_34 CTX_L10_1 CTX_L10_4|CTX_L8_7 2.6983f
Cext_35 CTX_L10_1 CTX_L10_5 54.1152a
Cext_36 CTX_L10_1 CTX_L10_6|CTX_L30_10|CTX_L8_8 21.6299a
Cext_37 CTX_L10_1 CTX_L10_7|CTX_L8_10|CTX_L8_9 34.9192a
Cext_38 CTX_L10_1 CTX_L10_8|CTX_L8_11 18.4164a
Cext_39 CTX_L10_1 CTX_L8_13 15.1014a
Cext_40 CTX_L10_1 CTX_L8_14 20.8009a
Cext_41 CTX_L10_1 CTX_L8_15 18.3345a
Cext_42 CTX_L10_1 CTX_L8_16 18.3345a
Cext_43 CTX_L10_1 CTX_L8_17 18.3345a
Cext_44 CTX_L10_1 CTX_L8_18 18.4164a
Cext_45 CTX_L10_1 CTX_L8_19 18.3345a
Cext_46 CTX_L10_1 CTX_L8_20 18.3345a
Cext_47 CTX_L10_1 CTX_L8_21 18.4164a
Cext_48 CTX_L10_1 CTX_L8_22 18.3345a
Cext_49 CTX_L10_1 CTX_L8_23 18.4164a
Cext_50 CTX_L10_1 CTX_L8_24 18.3345a
Cext_51 CTX_L10_1 CTX_L8_25 18.3345a
Cext_52 CTX_L10_1 CTX_L8_26 16.4632a
Cext_53 CTX_L10_1 CTX_L8_27 16.7247a
Cext_54 CTX_L10_1 CTX_L8_28 18.4164a
Cext_55 CTX_L10_1 CTX_L8_29 18.3345a
Cext_56 CTX_L10_1 CTX_L8_30 18.1902a
Cext_57 CTX_L10_1 VSUBS 662.764a
Cext_58 CTX_L10_10|CTX_L8_12 CTX_L10_11 3.61181f
Cext_59 CTX_L10_10|CTX_L8_12 CTX_L10_2|CTX_L30_8|CTX_L8_4 27.2329a
Cext_60 CTX_L10_10|CTX_L8_12 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 24.8502a
Cext_61 CTX_L10_10|CTX_L8_12 CTX_L10_4|CTX_L8_7 12.6706a
Cext_62 CTX_L10_10|CTX_L8_12 CTX_L10_5 12.5592a
Cext_63 CTX_L10_10|CTX_L8_12 CTX_L10_6|CTX_L30_10|CTX_L8_8 26.3926a
Cext_64 CTX_L10_10|CTX_L8_12 CTX_L10_7|CTX_L8_10|CTX_L8_9 13.733a
Cext_65 CTX_L10_10|CTX_L8_12 CTX_L10_8|CTX_L8_11 13.8597a
Cext_66 CTX_L10_10|CTX_L8_12 CTX_L10_9 3.624f
Cext_67 CTX_L10_10|CTX_L8_12 CTX_L8_13 12.8661a
Cext_68 CTX_L10_10|CTX_L8_12 CTX_L8_14 17.0201a
Cext_69 CTX_L10_10|CTX_L8_12 CTX_L8_15 18.2628a
Cext_70 CTX_L10_10|CTX_L8_12 CTX_L8_16 18.2628a
Cext_71 CTX_L10_10|CTX_L8_12 CTX_L8_17 13.48a
Cext_72 CTX_L10_10|CTX_L8_12 CTX_L8_18 12.5592a
Cext_73 CTX_L10_10|CTX_L8_12 CTX_L8_19 1.00847f
Cext_74 CTX_L10_10|CTX_L8_12 CTX_L8_20 261.304a
Cext_75 CTX_L10_10|CTX_L8_12 CTX_L8_21 12.5592a
Cext_76 CTX_L10_10|CTX_L8_12 CTX_L8_22 12.5592a
Cext_77 CTX_L10_10|CTX_L8_12 CTX_L8_23 12.5592a
Cext_78 CTX_L10_10|CTX_L8_12 CTX_L8_24 16.0993a
Cext_79 CTX_L10_10|CTX_L8_12 CTX_L8_25 13.48a
Cext_80 CTX_L10_10|CTX_L8_12 CTX_L8_26 10.606a
Cext_81 CTX_L10_10|CTX_L8_12 CTX_L8_27 12.8766a
Cext_82 CTX_L10_10|CTX_L8_12 CTX_L8_28 14.8298a
Cext_83 CTX_L10_10|CTX_L8_12 CTX_L8_29 12.5592a
Cext_84 CTX_L10_10|CTX_L8_12 CTX_L8_30 12.333a
Cext_85 CTX_L10_10|CTX_L8_12 VSUBS 437.792a
Cext_86 CTX_L10_11 CTX_L10_2|CTX_L30_8|CTX_L8_4 14.4826a
Cext_87 CTX_L10_11 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 13.0914a
Cext_88 CTX_L10_11 CTX_L10_6|CTX_L30_10|CTX_L8_8 13.9728a
Cext_89 CTX_L10_11 CTX_L10_7|CTX_L8_10|CTX_L8_9 0.323344a
Cext_90 CTX_L10_11 CTX_L10_8|CTX_L8_11 0.273772a
Cext_91 CTX_L10_11 CTX_L8_13 6.81887a
Cext_92 CTX_L10_11 CTX_L8_14 9.06891a
Cext_93 CTX_L10_11 CTX_L8_15 9.74206a
Cext_94 CTX_L10_11 CTX_L8_16 9.74206a
Cext_95 CTX_L10_11 CTX_L8_17 7.15137a
Cext_96 CTX_L10_11 CTX_L8_18 6.65263a
Cext_97 CTX_L10_11 CTX_L8_19 8.57017a
Cext_98 CTX_L10_11 CTX_L8_20 7.15137a
Cext_99 CTX_L10_11 CTX_L8_21 6.65263a
Cext_100 CTX_L10_11 CTX_L8_22 6.65263a
Cext_101 CTX_L10_11 CTX_L8_23 6.65263a
Cext_102 CTX_L10_11 CTX_L8_24 8.57017a
Cext_103 CTX_L10_11 CTX_L8_25 7.15137a
Cext_104 CTX_L10_11 CTX_L8_26 5.59464a
Cext_105 CTX_L10_11 CTX_L8_27 6.82454a
Cext_106 CTX_L10_11 CTX_L8_28 7.88252a
Cext_107 CTX_L10_11 CTX_L8_29 6.65263a
Cext_108 CTX_L10_11 CTX_L8_30 6.53008a
Cext_109 CTX_L10_11 VSUBS 790.251a
Cext_110 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6
+ 70.851a
Cext_111 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L10_5 321.369a
Cext_112 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L10_6|CTX_L30_10|CTX_L8_8 27.9339a
Cext_113 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L10_8|CTX_L8_11 27.5231a
Cext_114 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L10_9 27.3312a
Cext_115 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L8_13 701.191a
Cext_116 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L8_14 60.1868a
Cext_117 CTX_L10_2|CTX_L30_8|CTX_L8_4 CTX_L8_15 1.87002a
Cext_118 CTX_L10_2|CTX_L30_8|CTX_L8_4 VSUBS 319.003a
Cext_119 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L10_4|CTX_L8_7 29.2732a
Cext_120 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L10_5 499.843a
Cext_121 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L10_6|CTX_L30_10|CTX_L8_8
+ 209.203a
Cext_122 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L10_7|CTX_L8_10|CTX_L8_9
+ 0.475957a
Cext_123 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L10_8|CTX_L8_11 25.4305a
Cext_124 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L10_9 25.0468a
Cext_125 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L8_14 691.013a
Cext_126 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L8_15 753.32a
Cext_127 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L8_16 1.47261a
Cext_128 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L8_17 0.293346a
Cext_129 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 CTX_L8_18 0.243504a
Cext_130 CTX_L10_3|CTX_L30_9|CTX_L8_5|CTX_L8_6 VSUBS 400.053a
Cext_131 CTX_L10_4|CTX_L8_7 CTX_L10_5 2.68097f
Cext_132 CTX_L10_4|CTX_L8_7 CTX_L10_6|CTX_L30_10|CTX_L8_8 692.866a
Cext_133 CTX_L10_4|CTX_L8_7 CTX_L10_7|CTX_L8_10|CTX_L8_9 23.6701a
Cext_134 CTX_L10_4|CTX_L8_7 CTX_L10_8|CTX_L8_11 13.2572a
Cext_135 CTX_L10_4|CTX_L8_7 CTX_L10_9 0.284003a
Cext_136 CTX_L10_4|CTX_L8_7 CTX_L8_16 61.5245a
Cext_137 CTX_L10_4|CTX_L8_7 CTX_L8_17 12.5592a
Cext_138 CTX_L10_4|CTX_L8_7 CTX_L8_18 12.5592a
Cext_139 CTX_L10_4|CTX_L8_7 CTX_L8_19 12.5592a
Cext_140 CTX_L10_4|CTX_L8_7 CTX_L8_20 12.5592a
Cext_141 CTX_L10_4|CTX_L8_7 CTX_L8_21 12.5592a
Cext_142 CTX_L10_4|CTX_L8_7 CTX_L8_22 12.5592a
Cext_143 CTX_L10_4|CTX_L8_7 CTX_L8_23 12.5592a
Cext_144 CTX_L10_4|CTX_L8_7 CTX_L8_24 12.5592a
Cext_145 CTX_L10_4|CTX_L8_7 CTX_L8_25 12.5592a
Cext_146 CTX_L10_4|CTX_L8_7 CTX_L8_26 10.606a
Cext_147 CTX_L10_4|CTX_L8_7 CTX_L8_27 10.9494a
Cext_148 CTX_L10_4|CTX_L8_7 CTX_L8_28 12.5592a
Cext_149 CTX_L10_4|CTX_L8_7 CTX_L8_29 12.5592a
Cext_150 CTX_L10_4|CTX_L8_7 CTX_L8_30 12.333a
Cext_151 CTX_L10_4|CTX_L8_7 VSUBS 280.557a
Cext_152 CTX_L10_5 CTX_L10_6|CTX_L30_10|CTX_L8_8 1.03539f
Cext_153 CTX_L10_5 CTX_L10_7|CTX_L8_10|CTX_L8_9 2.42729f
Cext_154 CTX_L10_5 CTX_L10_8|CTX_L8_11 73.8526a
Cext_155 CTX_L10_5 CTX_L8_13 12.8661a
Cext_156 CTX_L10_5 CTX_L8_14 19.4865a
Cext_157 CTX_L10_5 CTX_L8_15 17.0201a
Cext_158 CTX_L10_5 CTX_L8_16 15.9464a
Cext_159 CTX_L10_5 CTX_L8_17 12.5592a
Cext_160 CTX_L10_5 CTX_L8_18 12.5592a
Cext_161 CTX_L10_5 CTX_L8_19 12.5592a
Cext_162 CTX_L10_5 CTX_L8_20 12.5592a
Cext_163 CTX_L10_5 CTX_L8_21 12.5592a
Cext_164 CTX_L10_5 CTX_L8_22 12.5592a
Cext_165 CTX_L10_5 CTX_L8_23 12.5592a
Cext_166 CTX_L10_5 CTX_L8_24 12.5592a
Cext_167 CTX_L10_5 CTX_L8_25 12.5592a
Cext_168 CTX_L10_5 CTX_L8_26 10.606a
Cext_169 CTX_L10_5 CTX_L8_27 10.9494a
Cext_170 CTX_L10_5 CTX_L8_28 12.5592a
Cext_171 CTX_L10_5 CTX_L8_29 12.5592a
Cext_172 CTX_L10_5 CTX_L8_30 12.333a
Cext_173 CTX_L10_5 VSUBS 181.059a
Cext_174 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L10_7|CTX_L8_10|CTX_L8_9 13.3969a
Cext_175 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L10_8|CTX_L8_11 1.04046f
Cext_176 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L10_9 26.6942a
Cext_177 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_13 12.8661a
Cext_178 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_14 17.0201a
Cext_179 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_15 39.8999a
Cext_180 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_16 28.0489a
Cext_181 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_17 0.917172a
Cext_182 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_18 0.747258a
Cext_183 CTX_L10_6|CTX_L30_10|CTX_L8_8 CTX_L8_19 0.473754a
Cext_184 CTX_L10_6|CTX_L30_10|CTX_L8_8 VSUBS 288.812a
Cext_185 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L10_8|CTX_L8_11 2.41995f
Cext_186 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L10_9 1.77334a
Cext_187 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_16 812.829a
Cext_188 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_17 211.359a
Cext_189 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_18 12.5592a
Cext_190 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_19 12.5592a
Cext_191 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_20 12.5592a
Cext_192 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_21 12.5592a
Cext_193 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_22 12.5592a
Cext_194 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_23 12.5592a
Cext_195 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_24 12.5592a
Cext_196 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_25 12.5592a
Cext_197 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_26 10.606a
Cext_198 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_27 652.345a
Cext_199 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_28 823.477a
Cext_200 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_29 12.5592a
Cext_201 CTX_L10_7|CTX_L8_10|CTX_L8_9 CTX_L8_30 12.333a
Cext_202 CTX_L10_7|CTX_L8_10|CTX_L8_9 VSUBS 465.223a
Cext_203 CTX_L10_8|CTX_L8_11 CTX_L10_9 3.61252f
Cext_204 CTX_L10_8|CTX_L8_11 CTX_L8_13 12.8661a
Cext_205 CTX_L10_8|CTX_L8_11 CTX_L8_14 17.0201a
Cext_206 CTX_L10_8|CTX_L8_11 CTX_L8_15 18.2628a
Cext_207 CTX_L10_8|CTX_L8_11 CTX_L8_16 20.7292a
Cext_208 CTX_L10_8|CTX_L8_11 CTX_L8_17 13.48a
Cext_209 CTX_L10_8|CTX_L8_11 CTX_L8_18 12.5592a
Cext_210 CTX_L10_8|CTX_L8_11 CTX_L8_19 12.5592a
Cext_211 CTX_L10_8|CTX_L8_11 CTX_L8_20 12.5592a
Cext_212 CTX_L10_8|CTX_L8_11 CTX_L8_21 12.5592a
Cext_213 CTX_L10_8|CTX_L8_11 CTX_L8_22 12.5592a
Cext_214 CTX_L10_8|CTX_L8_11 CTX_L8_23 12.5592a
Cext_215 CTX_L10_8|CTX_L8_11 CTX_L8_24 885.14a
Cext_216 CTX_L10_8|CTX_L8_11 CTX_L8_25 228.008a
Cext_217 CTX_L10_8|CTX_L8_11 CTX_L8_26 10.606a
Cext_218 CTX_L10_8|CTX_L8_11 CTX_L8_27 12.8766a
Cext_219 CTX_L10_8|CTX_L8_11 CTX_L8_28 14.8298a
Cext_220 CTX_L10_8|CTX_L8_11 CTX_L8_29 12.5592a
Cext_221 CTX_L10_8|CTX_L8_11 CTX_L8_30 12.333a
Cext_222 CTX_L10_8|CTX_L8_11 VSUBS 412.757a
Cext_223 CTX_L10_9 CTX_L8_13 12.8661a
Cext_224 CTX_L10_9 CTX_L8_14 17.0201a
Cext_225 CTX_L10_9 CTX_L8_15 18.2628a
Cext_226 CTX_L10_9 CTX_L8_16 18.2628a
Cext_227 CTX_L10_9 CTX_L8_17 13.48a
Cext_228 CTX_L10_9 CTX_L8_18 12.5592a
Cext_229 CTX_L10_9 CTX_L8_19 12.5592a
Cext_230 CTX_L10_9 CTX_L8_20 12.5592a
Cext_231 CTX_L10_9 CTX_L8_21 12.5592a
Cext_232 CTX_L10_9 CTX_L8_22 12.5592a
Cext_233 CTX_L10_9 CTX_L8_23 12.5592a
Cext_234 CTX_L10_9 CTX_L8_24 16.0993a
Cext_235 CTX_L10_9 CTX_L8_25 13.48a
Cext_236 CTX_L10_9 CTX_L8_26 10.606a
Cext_237 CTX_L10_9 CTX_L8_27 12.8766a
Cext_238 CTX_L10_9 CTX_L8_28 14.8298a
Cext_239 CTX_L10_9 CTX_L8_29 12.5592a
Cext_240 CTX_L10_9 CTX_L8_30 12.333a
Cext_241 CTX_L10_9 VSUBS 179.891a
Cext_242 CTX_L126_0 CTX_L67_0 1.05129f
Cext_243 CTX_L126_0 CTX_L8_0 1.14222a
Cext_244 CTX_L126_0 VSUBS 881.928a
Cext_245 CTX_L134_0 CTX_L134_1 632.067a
Cext_246 CTX_L134_0 CTX_L30_0 349.759a
Cext_247 CTX_L134_0 CTX_L67_0 10.32a
Cext_248 CTX_L134_0 CTX_L8_0 60.5128a
Cext_249 CTX_L134_0 CTX_L8_1 1.1982a
Cext_250 CTX_L134_0 VSUBS 1.04132f
Cext_251 CTX_L134_1 CTX_L30_0 308.772a
Cext_252 CTX_L134_1 CTX_L30_1 193.757a
Cext_253 CTX_L134_1 CTX_L30_2 22.6882a
Cext_254 CTX_L134_1 CTX_L30_3 17.9889a
Cext_255 CTX_L134_1 CTX_L30_6 16.5879a
Cext_256 CTX_L134_1 CTX_L8_0 3.06541a
Cext_257 CTX_L134_1 CTX_L8_1 2.28351a
Cext_258 CTX_L134_1 N 17.5443a
Cext_259 CTX_L134_1 P 17.0754a
Cext_260 CTX_L134_1 VSUBS 858.872a
Cext_261 CTX_L30_0 CTX_L30_1 1.24559f
Cext_262 CTX_L30_0 CTX_L8_0 173.085a
Cext_263 CTX_L30_0 CTX_L8_1 131.514a
Cext_264 CTX_L30_0 VSUBS 1.65069f
Cext_265 CTX_L30_1 CTX_L30_2 1.26652f
Cext_266 CTX_L30_1 CTX_L8_0 13.7891a
Cext_267 CTX_L30_1 CTX_L8_1 322.601a
Cext_268 CTX_L30_1 VSUBS 719.344a
Cext_269 CTX_L30_2 CTX_L30_3 279.622a
Cext_270 CTX_L30_2 CTX_L8_1 16.8702a
Cext_271 CTX_L30_2 VSUBS 482.488a
Cext_272 CTX_L30_3 CTX_L8_1 4.77902a
Cext_273 CTX_L30_3 CTX_L8_2 2.11758a
Cext_274 CTX_L30_3 N 4.30617f
Cext_275 CTX_L30_3 VSUBS 425.208a
Cext_276 CTX_L30_6 CTX_L8_1 3.12869a
Cext_277 CTX_L30_6 CTX_L8_2 3.0159a
Cext_278 CTX_L30_6 P 4.30617f
Cext_279 CTX_L30_6 VSUBS 592.195a
Cext_280 CTX_L67_0 CTX_L8_0 5.22598a
Cext_281 CTX_L67_0 VSUBS 1.01693f
Cext_282 CTX_L8_0 CTX_L8_1 83.3964a
Cext_283 CTX_L8_0 VSUBS 2.68514f
Cext_284 CTX_L8_1 N 4.11579a
Cext_285 CTX_L8_1 P 3.57452a
Cext_286 CTX_L8_1 VSUBS 1.76353f
Cext_287 CTX_L8_13 CTX_L8_14 62.5911a
Cext_288 CTX_L8_13 VSUBS 477.988a
Cext_289 CTX_L8_14 CTX_L8_15 62.5911a
Cext_290 CTX_L8_14 VSUBS 261.684a
Cext_291 CTX_L8_15 CTX_L8_16 18.7995a
Cext_292 CTX_L8_15 VSUBS 279.87a
Cext_293 CTX_L8_16 CTX_L8_17 40.7061a
Cext_294 CTX_L8_16 VSUBS 263.847a
Cext_295 CTX_L8_17 CTX_L8_18 1.02484f
Cext_296 CTX_L8_17 VSUBS 243.792a
Cext_297 CTX_L8_18 CTX_L8_19 260.047a
Cext_298 CTX_L8_18 VSUBS 256.18a
Cext_299 CTX_L8_19 CTX_L8_20 7.8786a
Cext_300 CTX_L8_19 VSUBS 239.3a
Cext_301 CTX_L8_2 N 2.36811a
Cext_302 CTX_L8_2 P 2.66389a
Cext_303 CTX_L8_2 VSUBS 1.77771f
Cext_304 CTX_L8_20 CTX_L8_21 1.02484f
Cext_305 CTX_L8_20 VSUBS 235.6a
Cext_306 CTX_L8_21 CTX_L8_22 260.047a
Cext_307 CTX_L8_21 VSUBS 256.18a
Cext_308 CTX_L8_22 CTX_L8_23 1.02484f
Cext_309 CTX_L8_22 VSUBS 233.936a
Cext_310 CTX_L8_23 CTX_L8_24 260.047a
Cext_311 CTX_L8_23 VSUBS 256.18a
Cext_312 CTX_L8_24 CTX_L8_25 29.7636a
Cext_313 CTX_L8_24 VSUBS 255.323a
Cext_314 CTX_L8_25 CTX_L8_26 1.02484f
Cext_315 CTX_L8_25 VSUBS 241.062a
Cext_316 CTX_L8_26 CTX_L8_27 676.453a
Cext_317 CTX_L8_26 CTX_L8_28 11.945a
Cext_318 CTX_L8_26 VSUBS 198.223a
Cext_319 CTX_L8_27 CTX_L8_28 71.9342a
Cext_320 CTX_L8_27 VSUBS 192.893a
Cext_321 CTX_L8_28 CTX_L8_29 243.398a
Cext_322 CTX_L8_28 VSUBS 271.554a
Cext_323 CTX_L8_29 CTX_L8_30 1.02484f
Cext_324 CTX_L8_29 VSUBS 229.223a
Cext_325 CTX_L8_30 VSUBS 438.431a
Cext_326 N P 4.30617f
Cext_327 N VSUBS 121.155a
Cext_328 P VSUBS 121.155a
.ENDS sense_fill_clip
