*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-23 06:31:46
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L126_0|CTX_L134_0 CTX_L134_1 142.051a
Cext_2 CTX_L126_0|CTX_L134_0 CTX_L30_0 79.5635a
Cext_3 CTX_L126_0|CTX_L134_0 CTX_L30_1 63.2028a
Cext_4 CTX_L126_0|CTX_L134_0 CTX_L30_2 3.68001a
Cext_5 CTX_L126_0|CTX_L134_0 CTX_L30_5 13.7165a
Cext_6 CTX_L126_0|CTX_L134_0 CTX_L30_7 7.61825a
Cext_7 CTX_L126_0|CTX_L134_0 CTX_L67_0 92.6934a
Cext_8 CTX_L126_0|CTX_L134_0 CTX_L67_1 184.853a
Cext_9 CTX_L126_0|CTX_L134_0 CTX_L67_4 36.0111a
Cext_10 CTX_L126_0|CTX_L134_0 CTX_L67_5 28.5581a
Cext_11 CTX_L126_0|CTX_L134_0 CTX_L67_6 17.345a
Cext_12 CTX_L126_0|CTX_L134_0 CTX_L67_7 12.0506a
Cext_13 CTX_L126_0|CTX_L134_0 N 73.5365a
Cext_14 CTX_L126_0|CTX_L134_0 P 232.659a
Cext_15 CTX_L126_0|CTX_L134_0 VSUBS 1.34127f
Cext_16 CTX_L134_1 CTX_L30_0 32.0851a
Cext_17 CTX_L134_1 CTX_L30_1 14.3583a
Cext_18 CTX_L134_1 CTX_L30_2 1.32424a
Cext_19 CTX_L134_1 CTX_L30_3 1.32424a
Cext_20 CTX_L134_1 CTX_L30_4 3.09993a
Cext_21 CTX_L134_1 CTX_L30_5 19.3717a
Cext_22 CTX_L134_1 CTX_L30_6 20.5905a
Cext_23 CTX_L134_1 CTX_L30_7 37.4512a
Cext_24 CTX_L134_1 CTX_L67_0 24.3906a
Cext_25 CTX_L134_1 CTX_L67_1 41.8101a
Cext_26 CTX_L134_1 CTX_L67_4 25.5922a
Cext_27 CTX_L134_1 CTX_L67_5 33.1672a
Cext_28 CTX_L134_1 CTX_L67_6 41.827a
Cext_29 CTX_L134_1 CTX_L67_7 50.6533a
Cext_30 CTX_L134_1 N 24.8773a
Cext_31 CTX_L134_1 P 43.499a
Cext_32 CTX_L134_1 VSUBS 1.18198f
Cext_33 CTX_L30_0 CTX_L30_1 144.502a
Cext_34 CTX_L30_0 CTX_L67_0 85.4872a
Cext_35 CTX_L30_0 CTX_L67_1 31.3935a
Cext_36 CTX_L30_0 VSUBS 1.20552f
Cext_37 CTX_L30_1 CTX_L30_2 4.30617f
Cext_38 CTX_L30_1 CTX_L67_0 5.64301a
Cext_39 CTX_L30_1 CTX_L67_1 6.53623a
Cext_40 CTX_L30_1 P 92.488a
Cext_41 CTX_L30_1 VSUBS 608.735a
Cext_42 CTX_L30_2 CTX_L30_3 4.30617f
Cext_43 CTX_L30_2 N 92.488a
Cext_44 CTX_L30_2 VSUBS 121.155a
Cext_45 CTX_L30_3 CTX_L30_4 4.30617f
Cext_46 CTX_L30_3 CTX_L67_4 92.488a
Cext_47 CTX_L30_3 VSUBS 121.155a
Cext_48 CTX_L30_4 CTX_L30_5 4.30617f
Cext_49 CTX_L30_4 CTX_L67_5 92.488a
Cext_50 CTX_L30_4 VSUBS 121.155a
Cext_51 CTX_L30_5 CTX_L30_6 4.30617f
Cext_52 CTX_L30_5 CTX_L67_5 51.178a
Cext_53 CTX_L30_5 CTX_L67_6 51.178a
Cext_54 CTX_L30_5 VSUBS 121.155a
Cext_55 CTX_L30_6 CTX_L30_7 213.177a
Cext_56 CTX_L30_6 CTX_L67_6 92.488a
Cext_57 CTX_L30_6 CTX_L67_7 31.3935a
Cext_58 CTX_L30_6 VSUBS 498.868a
Cext_59 CTX_L30_7 CTX_L67_7 32.0937a
Cext_60 CTX_L30_7 VSUBS 1.09565f
Cext_61 CTX_L67_0 CTX_L67_1 4.40905f
Cext_62 CTX_L67_0 VSUBS 592.053a
Cext_63 CTX_L67_1 P 239.266a
Cext_64 CTX_L67_1 VSUBS 423.717a
Cext_65 CTX_L67_4 CTX_L67_5 4.40905f
Cext_66 CTX_L67_4 N 4.40905f
Cext_67 CTX_L67_4 VSUBS 51.5994a
Cext_68 CTX_L67_5 CTX_L67_6 1.60753f
Cext_69 CTX_L67_5 VSUBS 71.7833a
Cext_70 CTX_L67_6 CTX_L67_7 1.60753f
Cext_71 CTX_L67_6 VSUBS 110.383a
Cext_72 CTX_L67_7 VSUBS 633.218a
Cext_73 N P 4.40905f
Cext_74 N VSUBS 51.5994a
Cext_75 P VSUBS 395.173a
.ENDS sense_fill_clip
