*********************************************************
*** NGSPICE file created by KLayout-PEX 0.3.12
*** -----------------------------------------------------
***     Extraction Engine: KPEX/2.5D
***     Technology: ihp_sg13g2
***     Date: 2026-09-23 06:32:00
*********************************************************

.SUBCKT sense_fill_clip
Cext_1 CTX_L126_0|CTX_L134_0 CTX_L134_1 407.15a
Cext_2 CTX_L126_0|CTX_L134_0 CTX_L30_0 133.157a
Cext_3 CTX_L126_0|CTX_L134_0 CTX_L30_1 63.2028a
Cext_4 CTX_L126_0|CTX_L134_0 CTX_L30_10 2.09573a
Cext_5 CTX_L126_0|CTX_L134_0 CTX_L30_11 1.919a
Cext_6 CTX_L126_0|CTX_L134_0 CTX_L30_12 1.08315a
Cext_7 CTX_L126_0|CTX_L134_0 CTX_L30_2 3.68001a
Cext_8 CTX_L126_0|CTX_L134_0 CTX_L30_5 13.7165a
Cext_9 CTX_L126_0|CTX_L134_0 CTX_L30_7 7.61825a
Cext_10 CTX_L126_0|CTX_L134_0 CTX_L30_8 5.08133a
Cext_11 CTX_L126_0|CTX_L134_0 CTX_L30_9 2.29501a
Cext_12 CTX_L126_0|CTX_L134_0 CTX_L67_0 158.96a
Cext_13 CTX_L126_0|CTX_L134_0 CTX_L67_1 186.996a
Cext_14 CTX_L126_0|CTX_L134_0 CTX_L67_4 36.0111a
Cext_15 CTX_L126_0|CTX_L134_0 CTX_L67_5 28.5581a
Cext_16 CTX_L126_0|CTX_L134_0 CTX_L67_6 17.345a
Cext_17 CTX_L126_0|CTX_L134_0 CTX_L67_7 12.0506a
Cext_18 CTX_L126_0|CTX_L134_0 CTX_L8_0 66.6097a
Cext_19 CTX_L126_0|CTX_L134_0 N 73.5365a
Cext_20 CTX_L126_0|CTX_L134_0 P 232.86a
Cext_21 CTX_L126_0|CTX_L134_0 VSUBS 1.89692f
Cext_22 CTX_L134_1 CTX_L30_0 76.0125a
Cext_23 CTX_L134_1 CTX_L30_1 14.3583a
Cext_24 CTX_L134_1 CTX_L30_10 32.1719a
Cext_25 CTX_L134_1 CTX_L30_11 32.0556a
Cext_26 CTX_L134_1 CTX_L30_12 36.4758a
Cext_27 CTX_L134_1 CTX_L30_13 27.7427a
Cext_28 CTX_L134_1 CTX_L30_14 80.6339a
Cext_29 CTX_L134_1 CTX_L30_2 1.32424a
Cext_30 CTX_L134_1 CTX_L30_3 1.32424a
Cext_31 CTX_L134_1 CTX_L30_4 3.09993a
Cext_32 CTX_L134_1 CTX_L30_5 29.0862a
Cext_33 CTX_L134_1 CTX_L30_6 20.5905a
Cext_34 CTX_L134_1 CTX_L30_7 51.5201a
Cext_35 CTX_L134_1 CTX_L30_8 34.9019a
Cext_36 CTX_L134_1 CTX_L30_9 32.2827a
Cext_37 CTX_L134_1 CTX_L67_0 87.1945a
Cext_38 CTX_L134_1 CTX_L67_1 48.4401a
Cext_39 CTX_L134_1 CTX_L67_4 34.6332a
Cext_40 CTX_L134_1 CTX_L67_5 42.6853a
Cext_41 CTX_L134_1 CTX_L67_6 52.3305a
Cext_42 CTX_L134_1 CTX_L67_7 120.211a
Cext_43 CTX_L134_1 CTX_L8_0 40.8354a
Cext_44 CTX_L134_1 N 31.9665a
Cext_45 CTX_L134_1 P 49.8843a
Cext_46 CTX_L134_1 VSUBS 2.74579f
Cext_47 CTX_L30_0 CTX_L30_1 144.502a
Cext_48 CTX_L30_0 CTX_L67_0 85.4872a
Cext_49 CTX_L30_0 CTX_L67_1 31.3935a
Cext_50 CTX_L30_0 CTX_L8_0 32.5205a
Cext_51 CTX_L30_0 VSUBS 1.18162f
Cext_52 CTX_L30_1 CTX_L30_2 4.30617f
Cext_53 CTX_L30_1 CTX_L67_0 5.64301a
Cext_54 CTX_L30_1 CTX_L67_1 6.53623a
Cext_55 CTX_L30_1 P 92.488a
Cext_56 CTX_L30_1 VSUBS 608.735a
Cext_57 CTX_L30_10 CTX_L30_11 4.30617f
Cext_58 CTX_L30_10 CTX_L30_9 4.30617f
Cext_59 CTX_L30_10 CTX_L67_7 9.74989a
Cext_60 CTX_L30_10 VSUBS 121.155a
Cext_61 CTX_L30_11 CTX_L30_12 4.30617f
Cext_62 CTX_L30_11 CTX_L67_7 8.4175a
Cext_63 CTX_L30_11 VSUBS 121.155a
Cext_64 CTX_L30_12 CTX_L30_13 742.443a
Cext_65 CTX_L30_12 CTX_L67_7 7.32725a
Cext_66 CTX_L30_12 VSUBS 234.02a
Cext_67 CTX_L30_13 CTX_L30_14 564.479a
Cext_68 CTX_L30_13 CTX_L67_7 5.04647a
Cext_69 CTX_L30_13 VSUBS 387.532a
Cext_70 CTX_L30_14 VSUBS 1.13464f
Cext_71 CTX_L30_2 CTX_L30_3 4.30617f
Cext_72 CTX_L30_2 N 92.488a
Cext_73 CTX_L30_2 VSUBS 121.155a
Cext_74 CTX_L30_3 CTX_L30_4 4.30617f
Cext_75 CTX_L30_3 CTX_L67_4 92.488a
Cext_76 CTX_L30_3 VSUBS 121.155a
Cext_77 CTX_L30_4 CTX_L30_5 4.30617f
Cext_78 CTX_L30_4 CTX_L67_5 92.488a
Cext_79 CTX_L30_4 VSUBS 121.155a
Cext_80 CTX_L30_5 CTX_L30_6 4.30617f
Cext_81 CTX_L30_5 CTX_L67_5 51.178a
Cext_82 CTX_L30_5 CTX_L67_6 51.178a
Cext_83 CTX_L30_5 VSUBS 121.155a
Cext_84 CTX_L30_6 CTX_L30_7 213.177a
Cext_85 CTX_L30_6 CTX_L67_6 92.488a
Cext_86 CTX_L30_6 CTX_L67_7 31.3935a
Cext_87 CTX_L30_6 VSUBS 498.868a
Cext_88 CTX_L30_7 CTX_L30_8 1.26652f
Cext_89 CTX_L30_7 CTX_L67_7 32.0937a
Cext_90 CTX_L30_7 VSUBS 556.148a
Cext_91 CTX_L30_8 CTX_L30_9 4.30617f
Cext_92 CTX_L30_8 CTX_L67_7 13.4369a
Cext_93 CTX_L30_8 VSUBS 178.435a
Cext_94 CTX_L30_9 CTX_L67_7 11.3931a
Cext_95 CTX_L30_9 VSUBS 121.155a
Cext_96 CTX_L67_0 CTX_L67_1 4.40905f
Cext_97 CTX_L67_0 CTX_L8_0 26.4652a
Cext_98 CTX_L67_0 VSUBS 572.569a
Cext_99 CTX_L67_1 CTX_L8_0 4.90995a
Cext_100 CTX_L67_1 P 239.266a
Cext_101 CTX_L67_1 VSUBS 423.717a
Cext_102 CTX_L67_4 CTX_L67_5 4.40905f
Cext_103 CTX_L67_4 N 4.40905f
Cext_104 CTX_L67_4 VSUBS 51.5994a
Cext_105 CTX_L67_5 CTX_L67_6 1.60753f
Cext_106 CTX_L67_5 VSUBS 71.7833a
Cext_107 CTX_L67_6 CTX_L67_7 1.60753f
Cext_108 CTX_L67_6 VSUBS 110.383a
Cext_109 CTX_L67_7 VSUBS 558.251a
Cext_110 CTX_L8_0 VSUBS 1.78611f
Cext_111 N P 4.40905f
Cext_112 N VSUBS 51.5994a
Cext_113 P VSUBS 395.173a
.ENDS sense_fill_clip
